US07816522B2
To 2 ml of a DMF solution containing 200 mg of [2-(4-cyano-3-fluorophenylimino)-2-(2-fluoro-3-hydroxy-5-methoxyphenyl)-1-methylsulfanylethylidene]carbamic acid methyl ester, 300 mg of potassium carbonate and 0.2 ml of 2-(2-bromoethoxy)tetrahydro-2H-pyran were added. The resulting mixture was stirred at room temperature for 18 hours, and then water was added thereto. The mixture was extracted with ethyl acetate. The organic layer was washed with water and then with 5 saturated brine and dried over anhydrous sodium sulfate. The desiccating agent was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give (2-(4-cyano-3-fluorophenylimino)-2-{2-fluoro-5-methoxy-3-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}-1-methylsulfanylethylidene)carbamic acid methyl ester (150 mg) as a yellow oil.

reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | [2-(4-cyano-3-fluorophenylimino)-2-(2-fluoro-3-hydroxy-5-methoxyphenyl)-1-methylsulfanylethylidene]carbamic acid methyl ester | 200 mg | COC(N=C(C(C1=C(C(=CC(=C1)OC)O)F)=NC1=CC(=C(C=C1)C#N)F)SC)=O | C19H15F2N3O4S
reactant | potassium carbonate | 300 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | 0.2 ml | BrCCOC1OCCCC1 | C7H13BrO2
solvent | water | O | H2O
product | (2-(4-cyano-3-fluorophenylimino)-2-{2-fluoro-5-methoxy-3-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}-1-methylsulfanylethylidene)carbamic acid methyl ester | 150 mg | COC(N=C(C(C1=C(C(=CC(=C1)OC)OCCOC1OCCCC1)F)=NC1=CC(=C(C=C1)C#N)F)SC)=O | C26H27F2N3O6S
